US09056873B2
Preparation 8: 2-(Tributylstannyl)thieno[2,3-c]pyridine
To a cold (−78° C.) solution of thieno[2,3-c]pyridine (524 mg, 3.88 mmol) in anhydrous THF (50 mL) was added n-butyllithium (2.66 mL, 4.26 mmol) dropwise. The mixture was stirred for 60 minutes at −78° C. A solution of tributylchlorostannane (1.254 mL, 4.65 mmol) in anhydrous THF (10 mL) was added, and the reaction mixture was stirred for 30 minutes at −78° C. The solution was allowed to warm to room temperature over a period of 2 to 3 hours. Saturated aqueous sodium bicarbonate was added. The aqueous phase was extracted with diethyl ether (3×200 mL). The combined organic phase was dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo. The crude product was purified by silica gel column chromatography, eluting with a gradient of 10-50% EtOAc and hexane over a period of 60 minutes. The desired fractions were collected to give the title compound as a clear oil (1.1 g, 67%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.86 (t, J=7.32 Hz, 9H), 1.08-1.38 (m, 12H), 1.45-1.71 (m, 6H), 7.59 (s, 1H), 7.76-7.93 (m, 1H), 8.41 (s, 1H), 9.23 (s, 1H).

reactant | thieno[2,3-c]pyridine | 3.88 mmol, 524 mg | S1C=CC=2C1=CN=CC2 | C7H5NS
reactant | n-butyllithium | 4.26 mmol, 2.66 mL | C(CCC)[Li]
reactant | tributylchlorostannane | 4.65 mmol, 1.254 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(Tributylstannyl)thieno[2,3-c]pyridine | 1.1 g, 67% | C(CCC)[Sn](C1=CC=2C(=CN=CC2)S1)(CCCC)CCCC | InChI=1S/C7H4NS.3C4H9.Sn/c1-3-8-5-7-6(1)2-4-9-7;3*1-3-4-2;/h1-3,5H;3*1,3-4H2,2H3;
